### PR TITLE
[Merged by Bors] - feat(Data/Nat): add Nat.div_pow

### PR DESCRIPTION
**Pull request by b-mehta**
Adds the missing lemma Nat.div_pow, which seemed to be missing (at least, `exact?%` couldn't find it with all of Mathlib imported). Also moves `div_mul_div_comm` higher in the hierarchy (and golf) because it doesn't need the ordered semiring instance, cf the docstring of `Data/Nat/Order/Basic`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Basic.lean [hunk 1]
```diff
@@ -707,6 +707,26 @@ protected theorem div_left_inj {a b d : ℕ} (hda : d ∣ a) (hdb : d ∣ b) : a
   rw [← Nat.mul_div_cancel' hda, ← Nat.mul_div_cancel' hdb, h]
 #align nat.div_left_inj Nat.div_left_inj
 
+theorem div_mul_div_comm {l : ℕ} (hmn : n ∣ m) (hkl : l ∣ k) :
+    m / n * (k / l) = m * k / (n * l) := by
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Basic.lean:711]: I think this is the victim of mathport dropping parens; it's a lot easier to parse as
```suggestion
    (m / n) * (k / l) = (m * k) / (n * l) := by
```

**Review by eric-wieser — APPROVED** [review]
bors d+

Do we have or want the analogous lemmas for integers? Or is there some sign and rounding trickery that make it false? (out of scope unless you want to be sniped)

**Comment by b-mehta** [comment]
bors merge
